US08604213B2
Bromine (1.1 mL, 22 mmol) in acetic acid (10 mL) was slowly added into a vigorously stirred solution of 2-(3,4-dimethoxyphenyl)ethylamine (3.4 mL, 20 mmol) in 50 mL acetic acid. 2-bromo-4,5-dimethoxylbenzeneethanamine precipitated out after 15 minutes. The mixture was stirred for another two hours, filtered, and washed with dichloromethane 10 mL×3 and petroleum ether 10 mL×3. The resulting solid was taken up in water and the pH was brought to 10 with aqueous KOH solution. Extraction with dichloromethane followed by evaporation of the solvent yielded 4.12 g (78%) 2-Bromo-4,5-dimethoxylbenzeneethanamine. The crude product was dried under dynamic vacuum overnight and used without further purification.

reactant | Bromine | 22 mmol, 1.1 mL | BrBr | Br2
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 20 mmol, 3.4 mL | COC=1C=C(C=CC1OC)CCN | C10H15NO2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-4,5-dimethoxylbenzeneethanamine | 4.12 g, 78% | BrC1=C(C=C(C(=C1)OC)OC)CCN | C10H14BrNO2
